US07196087B2
To 1.9 mL (24.74 mmol) of dimethyl formamide dissolved in 20 mL benzene was added 2.7 mL (37.11 mmol) thionyl chloride. The mixture was stirred for 10 minutes and 5.0 g (24.74 mmol) 4-fluoro-2,6-dinitrophenol was added. The mixture was refluxed 6 hours, cooled and concentrated under reduced pressure. The residue was recrystallized from ethanol to give 2-chloro-5-fluoro-1,3-dinitro-benzene (5.39 g).

reactant | dimethyl formamide | 24.74 mmol, 1.9 mL | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 37.11 mmol, 2.7 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-fluoro-2,6-dinitrophenol | 24.74 mmol, 5.0 g | FC1=CC(=C(C(=C1)[N+](=O)[O-])O)[N+](=O)[O-] | C6H3FN2O5
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 2-chloro-5-fluoro-1,3-dinitro-benzene | 5.39 g | ClC1=C(C=C(C=C1[N+](=O)[O-])F)[N+](=O)[O-] | C6H2ClFN2O4
